US07741326B2
2-Bromo-4-methyl-6-iodophenol (7.82 gm, 25 mmol) and cinnamyl bromide (4.93 g, 25 mmol) were added to DMF (20 ml). Diisopropylethylamine (5.3 ml, 30.4 mmol) was added and the mixture heated to 60° C. for 15 minutes and then allowed stir for 16 hours at room temperature. The DMF was removed under vacuum, and 1M HCl was added until the residue was acidic. The mixture was extracted with ethyl acetate, and the combined organic phase was dried over magnesium sulfate, filtered, and concentrated under reduced pressure to give 1-bromo-3-iodo-5-methyl-2-(3-phenylallyloxy)-benzene (10.86 g, 100% yield).

reactant | 2-Bromo-4-methyl-6-iodophenol | 25 mmol, 7.82 gm | BrC1=C(C(=CC(=C1)C)I)O | C7H6BrIO
reactant | cinnamyl bromide | 25 mmol, 4.93 g | C(C=CC1=CC=CC=C1)Br | C9H9Br
reactant | Diisopropylethylamine | 30.4 mmol, 5.3 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 1-bromo-3-iodo-5-methyl-2-(3-phenylallyloxy)-benzene | 10.86 g, 100% yield | BrC1=C(C(=CC(=C1)C)I)OCC=CC1=CC=CC=C1 | C16H14BrIO
